US05543409
2-Amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane and butyl isocyanate were treated in the same manner as in Example 29 to obtain 2-(butylcarbamoyl)amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane.

reactant | 2-Amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C13H15N3O
reactant | butyl isocyanate | C(CCC)N=C=O | C5H9NO
product | 2-(butylcarbamoyl)amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | C(CCC)NC(=O)NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C18H24N4O2
